2115-06-22 13:27:00 Physician Attending Progress Note
Chief Complaint: Status epilepticus
   HPI:  meninogoencephalitis
   24 Hour Events:
   Since transfer to MICU, "writhing movements" of arms & legs improved,
   better controlled.  Received iv ativan, iv valium and iv Dilantin
   load.  Remains non-communicative, unable to attend.  Able to protect
   airway.  Non-purposeful movements, but moving all 4 extremities.
   History obtained from Medical records
   Patient unable to provide history: Unresponsive
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Acyclovir - [**2115-6-22**] 08:30 AM
   Ceftriaxone - [**2115-6-22**] 12:41 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, No(t) Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, Seizure
   Psychiatric / Sleep: Agitated, No(t) Suicidal, No(t) Delirious, No(t)
   Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2115-6-22**] 01:24 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.1
C (97
   HR: 86 (82 - 107) bpm
   BP: 141/90(102) {131/82(98) - 179/92(113)} mmHg
   RR: 26 (24 - 34) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
             926 mL
   PO:
             TF:
   IVF:
   926 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                  3,050 mL
   Urine:
   3,050 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                 -2,124 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: 7.49/34/80.[**Numeric Identifier 248**]/25/2
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: No(t) PERRL, No(t) Pupils dilated, No(t)
   Conjunctiva pale, No(t) Sclera edema, disconjugate gaze
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Noxious stimuli, No(t) Oriented (to): , Movement: Non -purposeful,
   No(t) Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   14.8 g/dL
   141 K/uL
   149 mg/dL
   0.6 mg/dL
   25 mEq/L
   3.2 mEq/L
   10 mg/dL
   95 mEq/L
   139 mEq/L
   46
   4.9 K/uL
        [image002.jpg]
                             [**2115-6-22**]  03:43 AM
                             [**2115-6-22**]  06:17 AM
   WBC
   4.9
   Hct
   40.6
   46
   Plt
   141
   Cr
   0.6
   TCO2
   27
   Glucose
   123
   149
   Other labs: PT / PTT / INR:13.5/27.7/1.1, Lactic Acid:2.3 mmol/L,
   Ca++:8.0 mg/dL, Mg++:1.8 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   STATUS EPILEPTICUS -- attributed to underlying meningoencephalitis.
   Possible component of EtOH withdrawal/DT.  Medication related (although
   Toxin screen negative at admission).  Clinical seizures responded to
   benzodiazepines.  Tolerated Dilantin iv load --> need to F/U blood
   level.  Plan urgent EEG to evaluate for non-convulsive status.  If OK,
   then proceed to head MRI/MRA/MRV, and repeat LP.  Plan for intubation
   in preparation of MRI studies.  Maintain seizure precautions.
   Neurology to F/U.
   MENINGOENCEPHALITIS -- unclear etiology; possible viral (or late
   bacterial) with lymphocyte predominance.  Continue antimicrobials and
   antiviral empirically.  Reassess need for steroids.
   H/O EtOH -- Concern for possible withdrawal.  Monitor CIWA scale -->
   prn valium per scale.
   FLUIDS -- euvolemic.  Monitor I/O, maintain balance.
   ALTERED MENTAL STATUS -- attributed to status epilepticus.  Now
   post-ictal vs. non-convulsive status.  Evaluation (EEG, MRI/MRA/MRV,
   LP) as per Neurology.
   NUTRITIONAL STATUS -- NPO pending evaluation.
   RENAL FUNCITON -- preserved.  Monitor BUN, creat, I/O.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2115-6-22**] 03:45 AM
   20 Gauge - [**2115-6-22**] 03:45 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 55 minutes

2115-06-23 06:35:00 Physician Resident Progress Note
Chief Complaint: Presumed viral meningoencephalitis with status
   epilecticus
   24 Hour Events:
   Restarted on Vanc.
   Started on Dilantin 100mg q8h
   HIV consent found.  Lab ordered.  Will likely be processed on Monday.
 EEG
 INVASIVE VENTILATION
 for sedation during MRI and LP.  Sedation was
   held after 18:30 [**2115-6-22**] in hopes of extubation this am.  Pt
   successfully extubated at 8:30 am [**2115-6-23**]
 MAGNETIC RESONANCE IMAGING - At [**2115-6-22**] 03:07 PM ([**Year (4 digits) 3798**] results
   below)
 LUMBAR PUNCTURE - At [**2115-6-22**] 06:26 PM (results below)
 FEVER - 102.6
F - [**2115-6-23**] 03:00 AM: [**Year (4 digits) **] cultures sent
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2115-6-23**] 12:00 AM
   Acyclovir - [**2115-6-23**] 12:43 AM
   Vancomycin - [**2115-6-23**] 02:00 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2115-6-22**] 06:15 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-6-23**] 06:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.2
C (102.6
   Tcurrent: 39.2
C (102.6
   HR: 89 (73 - 96) bpm
   BP: 89/60(67) {84/46(54) - 175/114(138)} mmHg
   RR: 28 (12 - 34) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                  1,969 mL
                                                                    413 mL
   PO:
             TF:
   IVF:
                                                                  1,969 mL
                                                                    413 mL
   [**Year (4 digits) 1526**] products:
   Total out:
                                                                  3,491 mL
                                                                    310 mL
   Urine:
                                                                  3,491 mL
                                                                    310 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,522 mL
                                                                    103 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 334 (334 - 659) mL
   PS : 7 cmH2O
   RR (Set): 0
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 112
   PIP: 12 cmH2O
   Plateau: 15 cmH2O
   SpO2: 99%
   ABG: ///26/
   Ve: 8.7 L/min
   Physical Examination
   Gen: Appears agitated; in restraints, trying to pull out ET tube
   Neuro: open eyes to voice, does not reliably follow commands, moving
   all four extremities, no focal weaknesses, pupils L slightly greater
   than R; sluggish response to light, + gag reflex with suctioning
   CV: RRR, no M/R/G
   Lungs: CTA B anteriorly, posterior exam deferred, currently on vent PSV
   5/0
   Abd:  +bs, soft, ntnd
   Ext: warm, dry, nonpalpable pedal pulses, 1+ radial pulses
   Labs / Radiology
   135 K/uL
   13.1 g/dL
   116 mg/dL
   0.9 mg/dL
   26 mEq/L
   3.7 mEq/L
   12 mg/dL
   99 mEq/L
   133 mEq/L
   36.1 %
   5.5 K/uL
        [image002.jpg]
                             [**2115-6-22**]  03:43 AM
                             [**2115-6-22**]  06:17 AM
                             [**2115-6-23**]  02:50 AM
                             [**2115-6-23**]  04:40 AM
   WBC
   4.9
   5.5
   Hct
   40.6
   46
   36.1
   Plt
   141
   135
   Cr
   0.6
   0.9
   TCO2
   27
   Glucose
   123
   149
   116
   Other labs: PT / PTT / INR:13.5/27.7/1.1, Lactic Acid:2.3 mmol/L,
   Albumin:3.7 g/dL, Ca++:8.2 mg/dL, Mg++:1.8 mg/dL, PO4:2.6 mg/dL
   Microbiology:
   [**2115-6-23**] [**Month/Day/Year **] cx: pending
   [**2115-6-22**] sputum cx: pending
   [**2115-6-22**] urine cx: pending
   [**2115-6-22**] spinal fluid gram stain: no organisms
                spinal fluid cx: pending
                spinal fluid cryptococcal ag: neg
   [**2115-6-20**] CMV : no detection
   [**2115-6-20**] RPR: non reactive
   [**2115-6-20**] Lyme serology: pending
   [**2115-6-20**] EBV serology: pending
   [**2115-6-20**] [**Month/Day/Year **] cx: pending
   [**2115-6-20**] urine cx: coag neg staph 10,000-100,000 CFU
   LP:
   ANALYSIS
                                     WBC
                                     RBC
                                    Polys
                                   Lymphs
                                    Monos
                                    Atyps
                                    Other
   [1][**2115-6-22**] 06:50PM
                                   565[1]
                                   60*[2]
                                      1
                                     51
                                     14
                                      0
                                    34[3]
   TUBE4
   [2][**2115-6-22**] 06:50PM
                                   420[1]
                                   55*[2]
                                      1
                                     54
                                     19
                                      0
                                    26[3]
   Source: LP; TUBE1
   [3][**2115-6-20**] 06:44PM
                                   480[4]
                                   70*[5]
                                      4
                                     83
                                     10
   3[6]
   TUBE #4
   [4][**2115-6-20**] 06:44PM
                                   400[4]
                                   100*[5]
                                      6
                                     76
                                     16
   2[7]
   Source: LP; TUBE 1
   [**2115-6-22**]: CSF protein 527; glu 41; LDH 191
   Imaging
   [**2115-6-22**] MRI: ([**Month/Day/Year 3798**]) diffuse high signal cerebral sulci and cerebellar
   folia on FLAIR images may be realted to known meningitis, recent LP or
   combination.  No evidence of cerebritis, intra-axial or extra-axial
   abscess.  Non specific T2 hyperintensities in supra tentorial white
   matter----may be related to vasculitis, demyelination, Lyme disease,
   sarcoidosis or other inflammatory process.  No evidence of DVT.  2-mm
   aneurysm vs infundibulum in supraclinoid left internal carotid artery.
   Recommend further eval by CTA and follow up MRI after resolution of
   meningoencephalitis.
   [**2115-6-23**] CXR:
   Assessment and Plan
   51 y/o F a/w presumed viral meningoencephalitis transferred to ICU for
   management of status epilepticus.
   #Status epilepticus  - No seizure activity noted overnight.  Reportedly
   no evidence of seizure on EEG to date. No s/sx airway compromise, with
   adequate O2sat on NC. Dilantin load complete. Most likely [**12-29**] viral
   meningoencephalitis, must also consider ETOH withdrawal (unclear hx);
   less likely metabolic disturbance (Na, Ca, Mg, gluc), stroke, septic
   emboli, cerebral hypoxia, medication effect, temporal lobe epilepsy,
   acute HTN; no mass, bleed seen on CT
   -currently on dilantin 100mg po qhr;  dilantin level yesterday 13.7;
   dilantin level pending for today; monitor on tele for arrhythmia; when
   level returns will discuss with neuro if pt requires additional
   medication for prophyllaxis
   -if seizure recurs, 2 mg ativan IV f/b another 2 mg; may try keppra IV
   if unsuccessful and ultimately may require ET intubation and propofol
   gtt
   -continue bedside EEG today to characterize epileptogenic focus vs.
   toxic-metabolic encephalopathy vs. NCSE
   -MRI/MRA/MRV head: [**First Name9 (NamePattern2) 3798**] [**Location (un) 308**] ruled out abscess, neoplasm,
   bleeding, dvt, and enhancing ring lesions as seen in toxoplasmosis or
   lymphoma.  Follow up with final read today.
   -q2h neuro checks with attn: to eye deviation, closely monitor for
   airway compromise
   -f/u [**Location (un) **], urine, sputum Cx
   - Send for C. diff toxin assay
   -CIWA, MVI, folate, thiamine
   -seizure, aspiration precautions; NPO
   #Meningoencephalitis - likely viral (HSV, enterovirus, CMV, EBV, west
   [**Doctor First Name 1871**], EEE) vs. atypical bacterial (lyme, syphillis, TB) vs. fungal
   (toxo) vs. aseptic (NSAIDs); must consider bacterial meningitis in late
   phase with lymphocytic predominance in CSF, although less likely;
   crypto AG neg
   -cont. acyclovir, CTX; vancomycin; discuss additional abx recs with ID
   -will not start empiric therapy for toxo as no typical lesions seen on
   MRI;
   -will not add back steroids at this time
   -obtained HIV consent from daughter on [**2115-6-20**]; [**Name2 (NI) **] sent for testing
   [**2115-6-22**]; told assay will be done on monday
   -appreciate ID recs
   -Cx, serologies pending
   .
   #Abnormal T-cell subset: Low CD3, CD4 (133), CD8 but nl CD4/CD8 ratio;
   concerning for HIV infection, but may be explained by infection
   -consider starting bactrim for PCP [**Name Initial (PRE) 1512**]
   .
   #Thrombocytopenia - plts 117->129, no s/sx bleeding; suspect BM
   suppression [**12-29**] viral infection, also consider HIT
   -trend plts, x-fuse for <10 or s/sx bleeding
   -f/u serologies
   .
   #F/E/N
   -NPO until mental status improves
   -likely hypovolemic in setting of fever, npo, and significant uop; will
   start maintenance fluids today D5
 NS 100cc/hr
   - if mental status does not improve and pt remains seizure free will
   consider starting tube feeds.
   -follow lytes, replete PRN
   # Access
 PIV x 2; order PICC line for increased # of IV meds and poor
   access (dilantin, Vanco, ceftriaxone)
   .
   # PPx: venodynes, no need for GI PPx
   # Code status: FULL
   # Dispo: ICU
   # Comm: [**Name (NI) 273**] [**Name (NI) 3789**], daughter [**Telephone/Fax (1) 3790**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2115-6-23**] 04:29 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
References
   1. JavaScript:parent.POPUP(self,%22_WEBTAG=_1%22);
   2. JavaScript:parent.POPUP(self,%22_WEBTAG=_2%22);
   3. JavaScript:parent.POPUP(self,%22_WEBTAG=_3%22);
   4. JavaScript:parent.POPUP(self,%22_WEBTAG=_4%22);

2115-06-23 09:17:00 Physician Attending Progress Note
Chief Complaint: Seizures, altered mental status
   HPI:
   24 Hour Events:
 EEG - At [**2115-6-22**] 12:27 PM
 INVASIVE VENTILATION - START [**2115-6-22**] 02:12 PM
 MAGNETIC RESONANCE IMAGING - At [**2115-6-22**] 03:07 PM
 LUMBAR PUNCTURE - At [**2115-6-22**] 06:26 PM
 EEG - At [**2115-6-22**] 08:27 PM
   continious eeg monitoring
 FEVER - 102.6
F - [**2115-6-23**] 06:00 AM
   EEG yesterday, without evidence for continued seizure activity while on
   benzodiazepines and Dilantin.  Intubated for airway protection in
   preparation for procedures.  MRI & LP performed.
   Extubated this AM, uneventfully.  Remains on continuous EEG monitoring.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2115-6-23**] 12:00 AM
   Acyclovir - [**2115-6-23**] 07:35 AM
   Vancomycin - [**2115-6-23**] 08:30 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2115-6-22**] 06:15 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, Seizure
   Psychiatric / Sleep: Agitated, No(t) Suicidal, Delirious, No(t) Daytime
   somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2115-6-23**] 09:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.2
C (102.6
   Tcurrent: 37.8
C (100.1
   HR: 77 (73 - 90) bpm
   BP: 121/71(82) {84/46(54) - 175/114(138)} mmHg
   RR: 26 (12 - 33) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 63 kg (admission): 28.5 kg
   Height: 67 Inch
             Total In:
                                                                  1,969 mL
                                                                    845 mL
   PO:
             TF:
   IVF:
                                                                  1,969 mL
                                                                    845 mL
   Blood products:
   Total out:
                                                                  3,491 mL
                                                                    560 mL
   Urine:
                                                                  3,491 mL
                                                                    560 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,522 mL
                                                                    285 mL
   Respiratory support
   O2 Delivery Device: Face tent
   Ventilator mode: PSV/SBT
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 260 (260 - 659) mL
   PS : 5 cmH2O
   RR (Set): 0
   RR (Spontaneous): 28
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI: 112
   PIP: 5 cmH2O
   Plateau: 15 cmH2O
   SpO2: 100%
   ABG: ///26/
   Ve: 9.1 L/min
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: No(t) PERRL, No(t) Pupils dilated, No(t)
   Conjunctiva pale, No(t) Sclera edema, Left pupil > right pupil
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: No(t) Resonant : , No(t) Hyperresonant: , No(t) Dullness :
   ), (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: ,
   No(t) Wheezes : , No(t) Diminished: , No(t) Absent : , No(t)
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, No(t) Follows simple commands, Responds to:
   Tactile stimuli, No(t) Oriented (to): Non-communicative, Movement:
   Purposeful, No(t) Sedated, No(t) Paralyzed, Tone: Not assessed,
   Somewhat restless.  Intermittently attentive.
   Labs / Radiology
   13.1 g/dL
   135 K/uL
   116 mg/dL
   0.9 mg/dL
   26 mEq/L
   3.7 mEq/L
   12 mg/dL
   99 mEq/L
   133 mEq/L
   36.1 %
   5.5 K/uL
        [image002.jpg]
                             [**2115-6-22**]  03:43 AM
                             [**2115-6-22**]  06:17 AM
                             [**2115-6-23**]  02:50 AM
                             [**2115-6-23**]  04:40 AM
   WBC
   4.9
   5.5
   Hct
   40.6
   46
   36.1
   Plt
   141
   135
   Cr
   0.6
   0.9
   TCO2
   27
   Glucose
   123
   149
   116
   Other labs: PT / PTT / INR:13.5/27.7/1.1, Lactic Acid:2.3 mmol/L,
   Albumin:3.7 g/dL, Ca++:8.2 mg/dL, Mg++:1.8 mg/dL, PO4:2.6 mg/dL
   Fluid analysis / Other labs: CSF - pending
   WBC= 565
   RBC=
   TP= 527
   G= 41
   Imaging: MRI - leptomeninigeal enhancement
   Assessment and Plan
   Meningoencephalitis, complicated by seizures (status epilepticus).
   Respiratory failure -- intubated for airway protection.  Now
   successfully extubated.  Monitor airway patency, RR & SaO2.
   Seizures -- likely due to meningeal inflammation.  Currently controlled
   while on Dilantin --> follow level.  Seizure & aspiration precautions.
   Reduced CD4 count -- clinical concern for HIV risks --> HIV test
   pending (consent obtained previously)
   Fever -- attributed to CNS infection.  Continue to survey for other
   causes in ICU pt, although currently no localizing signs.  F/U LFT's,
   amylase, lipase.  Monitor for C. diff.
   Leptomeninigitis -- probable viral, would continue acyclovir (HSV PCR
   pending), but continue empirical antimicrobials.  Await cultures.
   Fluids -- euvolemic, but insensible losses with fever.  Provide iv
   fluids.  Follow I/O, maintain balance.
   Renal function -- preserved.  Monitor urine output, BUN, creatitine.
   Nutritional support -- NPO.  Consider initiating TF.
   IV Access -- consider PICC.  [**Month (only) 60**] need central line.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2115-6-23**] 04:29 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2115-06-24 07:46:00 Physician Resident Progress Note
Chief Complaint:
   Status epilepticus admission
   24 Hour Events:
   Patient has improved mental status today , more alert and less
   somnolent overnight  and this morning on exam.  Tm 100.1. No seizures
   overnight.
   HSV 2 noted in CSF sample / LP labs confirmed yesturday.  Team
   increased Acyclovir dose and discontinued  Vancomycin  and Ceftriaxone
   last night.
   Neuro team cleared removal of bedside EEG
   ETT was successfully removed yesterday , oxygen saturations
   consistently above mid-90s RA now
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2115-6-23**] 12:09 PM
   Vancomycin - [**2115-6-23**] 07:39 PM
   Acyclovir - [**2115-6-24**] 06:50 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-6-24**] 07:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 36.2
C (97.2
   HR: 67 (67 - 86) bpm
   BP: 113/75(84) {85/48(58) - 122/83(88)} mmHg
   RR: 23 (20 - 30) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 63 kg (admission): 28.5 kg
   Height: 67 Inch
             Total In:
                                                                  2,444 mL
                                                                  1,101 mL
   PO:
             125 mL
   TF:
   IVF:
                                                                  2,444 mL
                                                                    976 mL
   [**Year (4 digits) 1526**] products:
   Total out:
                                                                  2,120 mL
                                                                    385 mL
   Urine:
                                                                  2,120 mL
                                                                    385 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    324 mL
                                                                    716 mL
   Respiratory support
   O2 Delivery Device: None
   Ventilator mode: PSV/SBT
   Vt (Spontaneous): 260 (260 - 260) mL
   PS : 5 cmH2O
   RR (Spontaneous): 28
   PEEP: 0 cmH2O
   FiO2: 35%
   PIP: 5 cmH2O
   SpO2: 97%
   ABG: ///28/
   Ve: 9.1 L/min
   Physical Examination
   Gen: mild agitation with eye exam, Aniscoria noted (left pupil rxn
   >right), A&Ox1, still somnolent and mumbling speech
   Neuro: spontaneously  opens eyes to voice, difficulty follow commands
   and still answering questions with incomprehensible mumbling.
   Sensation in tact x 4 extremities
   CV: RRR, no rubs or murmurs noted, no JVD noted
   Lungs: CTA bilaterally, exam limited to lateral lung sounds/anterior
   auscultation. Nonlabored breathing, no accessory muscle use noted.
   Abd:  normoactive BS throughout, NT/ND
   Ext: dry skin, 2+ pedal pulses, no edema noted
   Labs / Radiology
   167 K/uL
   13.1 g/dL
   91 mg/dL
   0.7 mg/dL
   28 mEq/L
   3.1 mEq/L
   8 mg/dL
   101 mEq/L
   138 mEq/L
   35.4 %
   4.0 K/uL
        [image002.jpg]
                             [**2115-6-22**]  03:43 AM
                             [**2115-6-22**]  06:17 AM
                             [**2115-6-23**]  02:50 AM
                             [**2115-6-23**]  04:40 AM
                             [**2115-6-24**]  05:58 AM
   WBC
   4.9
   5.5
   4.0
   Hct
   40.6
   46
   36.1
   35.4
   Plt
   141
   135
   167
   Cr
   0.6
   0.9
   0.7
   TCO2
   27
   Glucose
   123
   149
   116
   91
   Other labs: PT / PTT / INR:13.5/27.7/1.1, Amylase / Lipase:67/37,
   Lactic Acid:2.3 mmol/L, Albumin:3.7 g/dL, Ca++:8.2 mg/dL, Mg++:2.0
   mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   51 y/o F a/w presumed viral meningoencephalitis transferred to ICU for
   management of status epilepticus.
   #Status epilepticus  - No seizure activity noted overnight.  Reportedly
   no evidence of seizure on EEG to date. No s/sx airway compromise, with
   adequate O2sat on NC and now doing well on RA. Seizures initially
   abated after Valium dosing, then given Dilantin. Given new CSF lab
   reports most likely etiology is HSV-2 encephalitis vs. previously
   postulated differential such as stroke, septic emboli, cerebral
   hypoxia, medication effect, temporal lobe epilepsy or  acute HTN.
   Initial CT with no IC mass, no bleeds.
   Will continue increased dose of Acyclovir 700 mg IV Q8H
   Currently on dilantin 100mg po qhr;  dilantin level [**6-22**] was  13.7;
   will follow-up dilantin level from [**6-23**] pending.  If  seizures recur
   willl give 2 mg ativan IV f/b another 2 mg; may try Keppra IV if
   unsuccessful.
   f/up video EEG today, [**6-24**]
   MRI/MRA/MRV head: [**First Name9 (NamePattern2) 3798**] [**Location (un) 308**] ruled out abscess, neoplasm, bleeding,
   dvt, and enhancing ring lesions as seen in toxoplasmosis or lymphoma.
   Follow up with final read today.
   -will change neuro checks from q2hrs to q4-6hrs
   -
   -CIWA, MVI, folate, thiamine
   -seizure precautions for today and d/c in[**11-28**] days
   #Meningoencephalitis /ID :  confirmed HSV-2 on [**6-23**] in CSF studies.
   Increased acyclovir dose yesturday per ID advice  and discontinued
   CTX; vancomycin  for now  as no bacterial sources identified.  Will
   call for  PICC placement for IV acyclovir extended [**12-30**] wk timeframe,
   will firm up specific time frame with ID team
   -will not add back steroids at this time, appreciate ID recommendations
   -will continue to follow outstanding [**Month/Day (3) **] Cx, serologies, pending HIV
   test
   -other ID: follow-up C.diff assay
   #Abnormal T-cell subset: Low CD3, CD4 (133), CD8 but nl CD4/CD8 ratio;
   concerning for HIV infection, but may be explained by infection.  Will
   revisit the HIV consent process with patient once she is more alert and
   coherent to discuss and follow-up HIV results. Suspicion of infection
   given T-Cell trends as above and setting of HSV-2 encephalitis. Will
   consider starting bactrim for PCP [**Name9 (PRE) 1512**] once HIV testing returned.
   Obtained HIV consent from daughter on [**2115-6-20**]; [**Name2 (NI) **] sent for testing
   [**2115-6-22**]; told assay will be done on Monday .
   #Thrombocytopenia - plts 117->129-> 160s now.  Improving trends, no
   s/sx bleeding. Etiology likely  BM suppression [**12-29**] viral infection.  If
   counts fall again will only need transfuse for Plts  <10 or s/sx
   bleeding
   #F/E/N
   -will advance to clears PO today given improving status and advance
   diet as tolerates, will continue D5 1/2NS
   continuous at 100 ml/hr while advances to full PO.
   -Recent  fevers also warrant IVF support.
   - Patient
s K 3.1 this morning, given IV repletion and Ca 2g repleted
   for low Ca level today. Will con
t replete lytes PRN.
   # Access
 PIV x 2; order PICC line for increased need for 2-3 weeks IV
   Acyclovir Rx  for HSV-2 meningoencephalitis
   .
   # PPx: continue venodynes, no need for GI PPx
   # Code status: FULL
   # Dispo: if patient remains seizure free today, transfer/call out to
   general medical floor with neurology to follow
   # Comm: [**Name (NI) 273**] [**Name (NI) 3789**], daughter [**Telephone/Fax (1) 3790**]
   ICU Care
   Nutrition: clears now , con
t IVFs as above
   Glycemic Control:
   Lines:
   20 Gauge - [**2115-6-24**] 12:40 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: call out to floor today

2115-06-24 11:23:00 Physician Attending Progress Note
Chief Complaint: Status epilepticus
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Less somnolent, interacting with nursing staff. No further seizures
   since [**2115-6-20**]. Had been intubated for MRI. Extubated yesterday.
   Antibiotics stopped yesterday except for acyclovir.
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2115-6-23**] 09:00 AM
   History obtained from [**Hospital 85**] Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2115-6-23**] 12:09 PM
   Vancomycin - [**2115-6-23**] 07:39 PM
   Acyclovir - [**2115-6-24**] 06:50 AM
   Infusions:
   Other ICU medications:
   Other medications:
   thiamine, folic acid, dilantin, ativan, tylenol
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-6-24**] 11:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.3
C (97.4
   HR: 74 (67 - 86) bpm
   BP: 112/70(80) {85/48(58) - 129/83(100)} mmHg
   RR: 21 (15 - 28) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 63 kg (admission): 28.5 kg
   Height: 67 Inch
             Total In:
                                                                  2,444 mL
                                                                  1,737 mL
   PO:
             225 mL
   TF:
   IVF:
                                                                  2,444 mL
                                                                  1,512 mL
   Blood products:
   Total out:
                                                                  2,120 mL
                                                                    545 mL
   Urine:
                                                                  2,120 mL
                                                                    545 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    324 mL
                                                                  1,192 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///28/
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic), II/VI at apex.
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: Clear : Anteriorally, No(t) Crackles : , No(t) Bronchial: ,
   No(t) Wheezes : , No(t) Diminished: , No(t) Absent : , No(t)
   Rhonchorous: )
   Abdominal: Soft, No(t) Non-tender, Bowel sounds present, No(t)
   Distended, No(t) Tender: , No(t) Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, No(t) Sedated, No(t) Paralyzed, Tone:
   Not assessed
   Labs / Radiology
   13.1 g/dL
   167 K/uL
   91 mg/dL
   0.7 mg/dL
   28 mEq/L
   3.1 mEq/L
   8 mg/dL
   101 mEq/L
   138 mEq/L
   35.4 %
   4.0 K/uL
        [image002.jpg]
                             [**2115-6-22**]  03:43 AM
                             [**2115-6-22**]  06:17 AM
                             [**2115-6-23**]  02:50 AM
                             [**2115-6-23**]  04:40 AM
                             [**2115-6-24**]  05:58 AM
   WBC
   4.9
   5.5
   4.0
   Hct
   40.6
   46
   36.1
   35.4
   Plt
   141
   135
   167
   Cr
   0.6
   0.9
   0.7
   TCO2
   27
   Glucose
   123
   149
   116
   91
   Other labs: PT / PTT / INR:13.5/27.7/1.1, Amylase / Lipase:67/37,
   Lactic Acid:2.3 mmol/L, Albumin:3.7 g/dL, Ca++:8.2 mg/dL, Mg++:2.0
   mg/dL, PO4:2.9 mg/dL
   Imaging: CXR ([**2115-6-23**]): Normal lung volumes, no infiltrates or
   effusions. Normal heart size.
   Assessment and Plan
   1) Status Epilepticus
   2) Encephalitis
   Patient has had no further seizures. With postiive viral culture,
   patient continued on acyclovir; other antibiiotics stopped. Patient
   with low CD4 count. Will ask for consent for HIV testing when her
   sensorium improves. Continue on antiepileptics. Advance diet. Replete
   calcium with calcium gluconate.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2115-6-24**] 12:40 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 25 minutes